US05789440
6-(4-Trifluoromethylphenyl)-5,6-dihydro-4-hydroxy-2H-pyran-2-one, (±)
The title compound was prepared as described in General Method 1 using 10 mL of methyl acetoacetate, 3.7 g of NaH 60% dispersion in oil, 58 mL of 1.6M n-butyl lithium in hexane, 11.5 g of 4-trifluoromethylbenzaldehyde and 250 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 10 minutes at 0° C. then 30 minutes at room temperature. The crude product was triturated from diethyl ether to afford a solid (m.p. 155°-156° C.). 1H NMR (CDCl3) δ2.83 (dd, 1H), 2.99 (dd, 1H), 3.58 (dd, 2H), 5.76 (dd, 1H), 7.50-7.76 (m, 4H).

reactant | methyl acetoacetate | 10 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 3.7 g | [H-].[Na+]
reactant | n-butyl lithium | 1.6M, 58 mL | C(CCC)[Li]
reactant | 4-trifluoromethylbenzaldehyde | 11.5 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 6-(4-Trifluoromethylphenyl)-5,6-dihydro-4-hydroxy-2H-pyran-2-one | FC(C1=CC=C(C=C1)C1CC(=CC(O1)=O)O)(F)F | C12H9F3O3
